US09340546B2
Step 3: 4-((6-((dimethylamino)methyl)pyridin-3-yl)oxy)pyridin-3-amine
N,N-dimethyl-1-(5-((3-nitropyridin-4-yl)oxy)pyridin-2-yl)methanamine (150 mg, 0.5469 mmol), Pd/C (10%) (58.20 mg, 0.5469 mmol) in MeOH (15 mL) was stirred overnight at RT under hydrogen (balloon). The catalyst was filtered off and the filtrate was concentrated in vacuo to yield the title product as a clear oil. MS (ES+) 245.2.

reactant | N,N-dimethyl-1-(5-((3-nitropyridin-4-yl)oxy)pyridin-2-yl)methanamine | 0.5469 mmol, 150 mg | CN(CC1=NC=C(C=C1)OC1=C(C=NC=C1)[N+](=O)[O-])C | C13H14N4O3
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 0.5469 mmol, 58.20 mg | [Pd] | Pd
product | 4-((6-((dimethylamino)methyl)pyridin-3-yl)oxy)pyridin-3-amine | CN(C)CC1=CC=C(C=N1)OC1=C(C=NC=C1)N | C13H16N4O
